US08748374B2
(2R,6S,13aS,14aR,16aS,Z)-2-(7-fluoro-3-(trifluoromethyl)quinoxalin-2-yloxy)-6-(5-methylisoxazole-3-carboxamido)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid
(2R,6S,13aS,14aR,16aS,Z)-2-hydroxy-6-(5-methylisoxazole-3-carboxamido)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid (15.2 g) was dissolved in dimethylsulfoxide (122 mL) and a solution of potassium tert-butoxide in THF (1.0M, 68.8 mL) was added dropwise, keeping the temperature to less than 30° C. The resulting solution was added to a solution of 3-chloro-6-fluoro-2-(trifluoromethyl)quinoxaline (8.3 g) in dimethylformamide (152 mL) over 30 min while at 0° C. After stiffing for 30 min, the reaction was diluted with 2-methyltetrahydrofuran (330 mL), quenched with phosphoric acid (29.1 g), and finally diluted with water (441 mL). The layers were separated and the lower layer was extracted with 2-methyltetrahydrofuran (165 mL). The organic layers were combined and extracted twice with water (330 mL each time). The organic layer was concentrated, chased with acetonitrile, and the final volume adjusted to about 900 mL with acetonitrile. The slurry was warmed to 80° C., cooled to 0° C., and filtered. The solid was rinsed with acetonitrile (100 mL) and dried under vacuum at 50° C. (19.5 g, 84% yield)

reactant | (2R,6S,13aS,14aR,16aS,Z)-2-hydroxy-6-(5-methylisoxazole-3-carboxamido)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid | 15.2 g | O[C@@H]1C[C@@H]2N(C([C@H](CCCCC\C=C/[C@H]3[C@](NC2=O)(C3)C(=O)O)NC(=O)C3=NOC(=C3)C)=O)C1 | C23H30N4O7
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 3-chloro-6-fluoro-2-(trifluoromethyl)quinoxaline | 8.3 g | ClC=1C(=NC2=CC=C(C=C2N1)F)C(F)(F)F | C9H3ClF4N2
solvent | dimethylsulfoxide | 122 mL | CS(=O)C | C2H6OS
solvent | THF | 1.0M, 68.8 mL | C1CCOC1 | C4H8O
solvent | dimethylformamide | 152 mL | CN(C=O)C | C3H7NO
solvent | 2-methyltetrahydrofuran | 330 mL | CC1OCCC1 | C5H10O
product | (2R,6S,13aS,14aR,16aS,Z)-2-(7-fluoro-3-(trifluoromethyl)quinoxalin-2-yloxy)-6-(5-methylisoxazole-3-carboxamido)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid | 84% yield | FC1=CC=C2N=C(C(=NC2=C1)O[C@@H]1C[C@@H]2N(C([C@H](CCCCC\C=C/[C@H]3[C@](NC2=O)(C3)C(=O)O)NC(=O)C3=NOC(=C3)C)=O)C1)C(F)(F)F | C32H32F4N6O7
